US05036078
(i) N-[2-(1H-Indol-5-yl)ethyl]methanesulphonamide
A mixture of 1H-indole-5-ethanamine (1.00 g), methane sulphonylchloride (0.69 ml), 8% sodium bicarbonate solution (100 ml) and ethyl acetate (100 ml) were stirred vigorously for 20 min. The organic phase was separated and the aqueous phase extracted with ethyl acetate (50 ml). The combined organic phases were dried and evaporated in vacuo to give the title compound as an oil (1.50 g). T.l.c. SiO2, EtOAc Rf 0.8

reactant | 1H-indole-5-ethanamine | 1.00 g | N1C=CC2=CC(=CC=C12)CCN | C10H12N2
reactant | methane sulphonylchloride | 0.69 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-[2-(1H-Indol-5-yl)ethyl]methanesulphonamide | 1.50 g | N1C=CC2=CC(=CC=C12)CCNS(=O)(=O)C | C11H14N2O2S
